*****************************************************************
* NXP PSMN016-100PS
*
* Polarity N-Channel
* Ratings 100V/1.600000E-002OHMS/57A
*
* Date Created Thu Nov 03 08:01:29 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN016-100PS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00027
LG GATE 1 2.77794920990657e-09
RLG GATE 1 6.98174786391044
LS SOURCE 8 3.36776357327138e-09
RLS2 SOURCE 8 8.46411304065334
RLS1 8 7 0.00113201211336403

RDS 7 4 2000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00995245687590234 TC=0.012548988333636,-9.85940270683842E-05
RBD 9 4 0.00135878132973665 TC=0.012548988333636,-9.85940270683842E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 2000000000
CGS 2 6 2.291e-09
RG 1 2 0.892442050062452

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -5	1700
+ -2	1700
+ -1	1364.1
+ -0.5	1111.1
+ -0.2	956.6
+ -0.1	911.9
+ 0	874
+ 0.1	733.9
+ 0.2	696.8
+ 0.5	619
+ 1	539.9
+ 2	406.9
+ 5	272.4
+ 10	221.1
+ 12	206.4
+ 20	166.9
+ 25	152.5
+ 30	140.92
+ 50	113.39
+ 70	85.86
+ 90	58.33
+ 100	44.565


.MODEL MINT NMOS(Vto=3.71 Kp=1.5e+002 Nfs=750000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-007 Rs=1E-6 Is=9.66609945641354e-13
+ N=1 M=0.59 VJ=0.5 Fc=0.5 Cjo=1.0087e-09 Tt=5.4e-08)

.ENDS

